US07452886B2
3 g (18 mmoles) of (R)-2-amino-3-methyl-butyric acid methyl ester hydrochloride, 2.1 g (15 mmoles) of 4-chloro-benzaldehyde and 2.94 ml (21 mmoles) of triethyl amine are dissolved in 100 ml of CH2Cl2 and excess of MgSO4 is added at ambient temperature under N2 atmosphere. After being stirred for 18 hours at ambient temperature, the reaction mixture is filtered off and washed with CH2Cl2. The filtrate is concentrated under reduced pressure. To the crude imine in 250 ml of MeOH, 2.04 g (54 mmoles) of NaBH4 is added portionwise at 0° C. The reaction mixture is stirred at 0° C. for 2 hours and concentrated to ¼ of whole volume under reduced pressure. The mixture is extracted with AcOEt and the combined extracts are washed with sat. NaHCO3 and brine, dried over Na2SO4 and concentrated under reduced pressure to give 3.72 g of desired (R)-2-(4-chloro-benzylamino)-3-methyl-butyric acid methyl ester in 97% yield.

reactant | (R)-2-amino-3-methyl-butyric acid methyl ester hydrochloride | 18 mmoles, 3 g | Cl.COC([C@@H](C(C)C)N)=O
reactant | 4-chloro-benzaldehyde | 15 mmoles, 2.1 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | triethyl amine | 21 mmoles, 2.94 ml | C(C)N(CC)CC | C6H15N
reactant | NaBH4 | 54 mmoles, 2.04 g | [BH4-].[Na+]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | MeOH | 250 ml | CO | CH4O
product | (R)-2-(4-chloro-benzylamino)-3-methyl-butyric acid methyl ester | 3.72 g, 97% yield | COC([C@@H](C(C)C)NCC1=CC=C(C=C1)Cl)=O | C13H18ClNO2
